US06531502B1
3-[2-(2-Oxo-1,2-dihydroindol-3-ylidenemethyl)-4,5,6,7-tetrahydro-1H-indol-3-yl]-propionic acid (10 g) was dissolved in 100 mL of dimethylformamide. Carbonyldiimidazole (6.3 g) was added and the mixture stirred at ambient temperature for 1 hour. Dimethylamine (2.7 g) and 30 mL of dimethylformamide were added and the stirring continued overnight at room temperature. Fifty mL of water was added to the mixture and stirring was continued for 10 minutes. The precipitate was collected by vacuum filtration, washed with 20 mL of water and then 20 mL of ethanol. The solid was slurry-washed in 30 mL of refluxing ethanol for 5 minutes and cooled to room temperature. The solid was collected by vacuum filtration, washed with 20 mL of ethanol and vacuum dried to give 8.9 g (83% yield) of N,N-dimethyl-3-[2-(2-oxo-1,2-dihydroindol-3-ylidenemethyl)-4,5,6,7-tetrahydro-1H-indol-3-yl]-propionamide.

reactant | 3-[2-(2-Oxo-1,2-dihydroindol-3-ylidenemethyl)-4,5,6,7-tetrahydro-1H-indol-3-yl]-propionic acid | 10 g | O=C1NC2=CC=CC=C2C1=CC=1NC=2CCCCC2C1CCC(=O)O | C20H20N2O3
reactant | Carbonyldiimidazole | 6.3 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Dimethylamine | 2.7 g | CNC | C2H7N
reactant | water | Fifty mL | O | H2O
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | N,N-dimethyl-3-[2-(2-oxo-1,2-dihydroindol-3-ylidenemethyl)-4,5,6,7-tetrahydro-1H-indol-3-yl]-propionamide | 8.9 g, 83% yield | CN(C(CCC1=C(NC=2CCCCC12)C=C1C(NC2=CC=CC=C12)=O)=O)C | C22H25N3O2
